US06169107A
After 2.17 g (15.7 mmol) of potassium carbonate, 2.25 g (15.7 mmol) of 1-bromo-2-chloroethane and 0.05 g of potassium iodide were added to a solution of 3.00 g (10.4 mmol) of ethyl 7-hydroxy-1-methyl-4-trifluoromethyl-2-indolecarboxylate in 30 ml of dimethylformamide, the mixture was stirred at room temperature for 3 hours. Subsequently, 1.45 g (10.4 mmol) of potassium carbonate and 0.69 g (5.2 mmol) of 1-bromo-2-chloroethane were further added thereto. The mixture was stirred at 50° C. for an hour. After cooling to room temperature, the reaction mixture was poured into saturated sodium chloride aqueous solution and then extracted with ethyl acetate. The extract was washed with saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 2.31 g of ethyl 7-(2-chloroethoxy)-1-methyl-4-trifluoromethyl-2-indolecarboxylate.

reactant | potassium carbonate | 15.7 mmol, 2.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 15.7 mmol, 2.25 g | BrCCCl | C2H4BrCl
reactant | ethyl 7-hydroxy-1-methyl-4-trifluoromethyl-2-indolecarboxylate | 10.4 mmol, 3.00 g | OC=1C=CC(=C2C=C(N(C12)C)C(=O)OCC)C(F)(F)F | C13H12F3NO3
reactant | potassium carbonate | 10.4 mmol, 1.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 5.2 mmol, 0.69 g | BrCCCl | C2H4BrCl
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
catalyst | potassium iodide | 0.05 g | [I-].[K+]
product | ethyl 7-(2-chloroethoxy)-1-methyl-4-trifluoromethyl-2-indolecarboxylate | 2.31 g | ClCCOC=1C=CC(=C2C=C(N(C12)C)C(=O)OCC)C(F)(F)F | C15H15ClF3NO3
